US08202865B2
Step 4: 3-(methoxymethyl)-4-(2-methylpiperidin-1-yl)benzoic acid
To anhydrous Et2O (130 mL) at −78° C. was added tert-butyllithium (63.79 mL; 1.50 M; 95.68 mmol) (solution in pentane) which was followed by the slow addition of a solution of 1-[4-bromo-2-(methoxymethyl)phenyl]-2-methylpiperidine (12.97 g; 43.49 mmol) in anhydrous Et2O (20 mL). After 40 min, the reaction mixture was poured on an excess of freshly crushed dry ice and stirred for 30 min after which time it was diluted with Et2O/EtOAc (1:1, 800 mL), water (200 mL, pH 4-5). The organic layers were combined, dried over MgSO4 and the solvents were removed under reduced pressure to give a yellow oil that was triturated in iPr2O (˜20 mL) and pentane (˜20 mL), filtered off and washed with pentane to give the title compound as a beige powder. LC/MS (Method B): 264.1 (M+H)+.

reactant | tert-butyllithium | 95.68 mmol, 1.50 M, 63.79 mL | C(C)(C)(C)[Li]
reactant | 1-[4-bromo-2-(methoxymethyl)phenyl]-2-methylpiperidine | 43.49 mmol, 12.97 g | BrC1=CC(=C(C=C1)N1C(CCCC1)C)COC | C14H20BrNO
reactant | dry ice | C(=O)=O | CO2
solvent | Et2O | 20 mL | CCOCC | C4H10O
solvent | Et2O EtOAc | 800 mL | CCOCC.CCOC(=O)C
solvent | water | 200 mL, pH 4-5 | O | H2O
solvent | Et2O | 130 mL | CCOCC | C4H10O
product | 3-(methoxymethyl)-4-(2-methylpiperidin-1-yl)benzoic acid | COCC=1C=C(C(=O)O)C=CC1N1C(CCCC1)C | C15H21NO3
